US08685970B2
2-(5-methylpyridin-3-yl)quinoline-8-carboxylic acid (0.135 g, 0.51 mmol) was combined with DIPEA (0.140 mL, 0.811 mmol) and HATU (0.200 g, 0.51 mmol) in DMF (5 mL). The mixture was stirred at room temperature for ten minutes, at which time 6-(morpholinomethyl)pyridin-2-amine (0.090 g, 0.466 mmol) was added. The mixture was stirred 18 hours, and then water (10 mL) was added. The resulting precipitate was collected by filtration, and the solids were triturated in methanol to obtain 2-(5-methylpyridin-3-yl)-N-(6-(morpholinomethyl)pyridin-2-yl)quinoline-8-carboxamide as a tan solid (0.045 g, 22% yield. MS (ESI) calcd for C26H25N5O2 (m/z): 439.20. found: 440 [M+1].

reactant | 2-(5-methylpyridin-3-yl)quinoline-8-carboxylic acid | 0.51 mmol, 0.135 g | CC=1C=C(C=NC1)C1=NC2=C(C=CC=C2C=C1)C(=O)O | C16H12N2O2
reactant | DIPEA | 0.811 mmol, 0.140 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.51 mmol, 0.200 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 6-(morpholinomethyl)pyridin-2-amine | 0.466 mmol, 0.090 g | O1CCN(CC1)CC1=CC=CC(=N1)N | C10H15N3O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 10 mL | O | H2O
product | 2-(5-methylpyridin-3-yl)-N-(6-(morpholinomethyl)pyridin-2-yl)quinoline-8-carboxamide | 22% yield | CC=1C=C(C=NC1)C1=NC2=C(C=CC=C2C=C1)C(=O)NC1=NC(=CC=C1)CN1CCOCC1 | C26H25N5O2
